US07838673B2
Step 3F: Methyl 2-methyl-2-[(pyrazin-2-ylcarbonyl)amino]propanoate
To a suspension of 2-pyrazinecarboxylic acid (1.22 g, 9.8 mmol), methyl 2-amino-2-methylpropanoate.HCl (1.50 g, 9.8 mmol) and collidine (3.9 mL, 29.4 mmol) in CH2Cl2 (25 mL) was added HATU (4.47 g, 11.8 mmol) in one portion. After 2 h, DMF (5 mL) and CH2Cl2 (25 mL) was added in order to solubilize the reaction. After stirring an addition 3 h, the reaction was diluted with EtOAc and the washed with 1 N HCl, 1N NaOH, saturated NaHCO3, and brine. The organic layer was dried (Na2SO4), filtered and concentrated. The material was used without further purification. 1H NMR (300 MHz, CDCl3) δ 9.16 (d, J=1.4 Hz, 1H); 8.75 (d, J=2.4 Hz, 1H); 8.53 (dd, J=1.5, 2.5 Hz, 1H); 8.33 (s, 1H); 3.79 (s, 3H); 1.70 (s, 6H). LC/MS: Rt=1.45 min, ES+224 (Formic Acid method).

reactant | 2-pyrazinecarboxylic acid | 9.8 mmol, 1.22 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | methyl 2-amino-2-methylpropanoate | NC(C(=O)OC)(C)C | C5H11NO2
reactant | HCl | 9.8 mmol, 1.50 g | Cl | ClH
reactant | collidine | 29.4 mmol, 3.9 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | HATU | 11.8 mmol, 4.47 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Methyl 2-methyl-2-[(pyrazin-2-ylcarbonyl)amino]propanoate | CC(C(=O)OC)(C)NC(=O)C1=NC=CN=C1 | C10H13N3O3
